US07893056B2
Sodium bicarbonate (2.073 g, 24.68 mmol) was dissolved in a mixture of water (20.00 mL) and DCM (20 mL), and phenylmethyl (3S)-3-amino-1-pyrrolidinecarboxylate (2.88 g, 11.22 mmol) was added followed by methylchloroformate (0.953 mL, 12.34 mmol). This mixture was stirred for 6 h. The biphasic mixture was then separated, and the aqueous phase was extracted once with DCM. The combined organics were dried over sodium sulfate, filtered and evaporated. The residual material was then purified via silica gel chromatography (0-100% EtoAc in hexane) yielding phenylmethyl (3S)-3-{[(methyloxy)carbonyl]amino}-1-pyrrolidinecarboxylate (2 g, 64%) as a clear oil. LCMS: (M+H)+: 278.9.

reactant | Sodium bicarbonate | 24.68 mmol, 2.073 g | C([O-])(O)=O.[Na+]
reactant | phenylmethyl (3S)-3-amino-1-pyrrolidinecarboxylate | 11.22 mmol, 2.88 g | N[C@@H]1CN(CC1)C(=O)OCC1=CC=CC=C1 | C12H16N2O2
reactant | methylchloroformate | 12.34 mmol, 0.953 mL | COC(=O)Cl | C2H3ClO2
solvent | water | 20.00 mL | O | H2O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | phenylmethyl (3S)-3-{[(methyloxy)carbonyl]amino}-1-pyrrolidinecarboxylate | 2 g, 64% | COC(=O)N[C@@H]1CN(CC1)C(=O)OCC1=CC=CC=C1 | C14H18N2O4
